2124-12-05 09:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Transferred to the ICU yesterday afternoon.  NGT placed after
   platelet/FFP transfusion.   Hydrated aggressively overnight for
   hypercalcemia with 7 liters NS.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2124-12-4**] 05:25 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-12-5**] 06:35 AM
   Other medications:
   Calcitonin, lactulose, RISS, synthroid, ursodiol, protonix,
   Testosterone patch, nadolol, ciproflox, rifaximin, caspofungin,
   cinacalcet, Dexamethasone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-5**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 103 (99 - 108) bpm
   BP: 136/68(85) {116/54(73) - 143/93(104)} mmHg
   RR: 14 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  5,139 mL
                                                                  3,744 mL
   PO:
             TF:
   IVF:
                                                                  4,547 mL
                                                                  2,904 mL
   Blood products:
                                                                    592 mL
   Total out:
                                                                  3,165 mL
                                                                  4,010 mL
   Urine:
                                                                  3,005 mL
                                                                  3,660 mL
   NG:
   Stool:
   350 mL
   Drains:
   Balance:
                                                                  1,974 mL
                                                                   -266 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General Appearance: Somnolent
   Eyes / Conjunctiva: PERRL, Sclera anicteric
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Throughout on R.)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, Rash: Excoriated lesions on LE, Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): Place, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   33 K/uL
   94 mg/dL
   0.2 mg/dL
   29 mEq/L
   3.6 mEq/L
   72 mg/dL
   118 mEq/L
   154 mEq/L
   23.7 %
   2.8 K/uL
        [image002.jpg]
                             [**2124-12-5**]  05:15 AM
   WBC
   2.8
   Hct
   23.7
   Plt
   33
   Cr
   0.2
   Glucose
   94
   Other labs: PT / PTT / INR:29.7/47.9/3.0, ALT / AST:54/119, Alk Phos /
   T Bili:119/47.2, LDH:693 IU/L, Ca++:11.2 mg/dL, Mg++:2.6 mg/dL, PO4:4.1
   mg/dL
   Imaging: CXR:  R hemithorax opacification unchanged since [**12-1**].
   Microbiology: UCx:  NGTD
   C diff:  neg
   Assessment and Plan
   37 yo M with HCV/cirrhosis complicated by ascites, encephalopathy,
   hepatic hydrothorax and varices admitted with AMS and found to be
   hypercalcemic.  Transferred for observation in the setting of
   encephalopathy
   1.) Encephalopathy:  Seems likely secondary to both hepatic
   encephalopathy with perhaps small contribution of hypercalcemia.  No
   clear signs of infection at present.
     -Continue lactulose/rifaximin
     -Aggressive hydration overnight did not significantly change calcium
   level.  Cannot get cinacalcet via NGT.  Discuss with endocrine re:
   ?bisphosphonate.
     -Aspiration precautions
    2.) Cirrhosis:  Seemingly decompensated at present given increased
   bili's and MS.  Possibly due to acute portal vein thrombosis
     -Lactulose/rifaximin as above
     -Per GI, preference is to avoid anticoagulation for portal vein
   thrombosis given significant coagulopathy.
    3.) Hypercalcemia:  PTH inappropriately elevated for hypercalcemia.
   Suggests primary hyperparathyroidism
     -Treatment of hypercalcemia as above
     -Once deemed stable, would need sestamibi scan for eval
    4.)  Skin infection: Felt to be fungal based on biopsies.  Appreciate
   ID input.
     -will continue anti-fungal coverage with caspofungin for now
    5.) Hepatic hydrothorax:
     -Will avoid serial taps
     -Will try to manage volume status with diuretics
    6) Coagulopathy
     -elevated PT, low platelets.  No evidence of bleeding at present.
   7) Panhypopit
     -Continue usual replacement doses
    Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2124-12-4**] 02:23 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2124-12-05 11:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- NG tube placed w/o complication
   -- aggressive IVF overnight with 7 L NS given total with lasix 40 mg IV
   x 3
   -- some improvement in MS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2124-12-4**] 05:25 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2124-12-5**] 06:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-5**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 88 (86 - 108) bpm
   BP: 124/66(78) {115/54(72) - 143/93(104)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  5,139 mL
                                                                  4,359 mL
   PO:
             TF:
   IVF:
                                                                  4,547 mL
                                                                  3,159 mL
   Blood products:
                                                                    592 mL
   Total out:
                                                                  3,165 mL
                                                                  5,050 mL
   Urine:
                                                                  3,005 mL
                                                                  4,350 mL
   NG:
   Stool:
   700 mL
   Drains:
   Balance:
                                                                  1,974 mL
                                                                   -691 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General: no distress, but appears critically ill
   HEENT: dry MM, cracked lips, icteric sclera
   Lungs: decreased BS on right throughout, crackles at bases; CTA on
   left, no wheezes, no crackles
   Cardio: tachycardic, RRR, no murmurs appreciated
   Abd: +BS, soft, distended
   Extremities:trace LE edema
   Skin: jaundice; scattered erosions & eschars on LE
   Neuro: arousable but somnolent; oriented to person & place; closes eyes
   when speaking to you.  CN II
 XII in tact; moves all limbs
   spontaneously
   Labs / Radiology
   33 K/uL
   8.7 g/dL
   94 mg/dL
   0.2 mg/dL
   29 mEq/L
   3.6 mEq/L
   72 mg/dL
   118 mEq/L
   154 mEq/L
   23.7 %
   2.8 K/uL
        [image002.jpg]
                             [**2124-12-5**]  05:15 AM
   WBC
   2.8
   Hct
   23.7
   Plt
   33
   Cr
   0.2
   Glucose
   94
   Other labs: PT / PTT / INR:29.7/47.9/3.0, ALT / AST:54/119, Alk Phos /
   T Bili:119/47.2, LDH:693 IU/L, Ca++:11.2 mg/dL, Mg++:2.6 mg/dL, PO4:4.1
   mg/dL
   Imaging: [**2124-12-4**] CXR: complete white out of right lung; unchanged from
   priors; no mediastinal shift
   Microbiology: [**2124-12-3**] UCx: NGTD
   [**2124-12-2**] C. diff stool: negative
   [**2124-12-1**] Blood cultures: NGTD
   Assessment and Plan
   37 yoM with MMP including HepC cirrhosis/ESLD, hypercalcemia, and
   panhypopit who was transferred to ICU on [**2124-12-4**] for lethargy/delta MS.
   (#) DELTA MS: likely multifactorial; most likely contributors are
   hypercalcemia & hepatic encephalopathy.  Has large hepatic hydrothroax,
   though no evidence of resp distress and satting well on 4LNC (same
   requirement as prior).  Neuro exam non-focal.  No evidnece for
   infectious etiologies, though cultures still pending.  Improvement
   overnight with Ox2, but still not at baseline.  No concern though for
   poor airway protection currently, though not ready to takePO
   medications
   -- cont lactulose, rifaximin
   -- would consider tapping for SBP dx if no improvement in MS, though
   low suspicion for infection currently
   -- f/u cx from weekend
   -- see below for plan on hypercalcemia
   -- f/u endocrine & renal recs
   -- low threshold for intubation if develops resp distress or worsening
   MS with inability to protect airway (no indication currently)
   (#) ESLD, HEP C CIRRHOSIS: MELD 32 --> 35 but currently off transplant
   list while critically ill.  S/p ERCP w/o improvement in TBili,
   synthetic function.  Also has portal vein thrombosis but coagulopathic
   so not on anticoagulation.
   -- cont lactulose, rifaximin, nadolol
   -- cont cipro ppx for SBP
   -- f/u liver recs
   (#) DEEP DERMATOPHYTE INFECTION OF THE LE:
   -- f/u ID recs --> will change to caspo from fluconazole per ID recs
   -- beta glucan pending per ID recs
   (#) HYPERCALCEMIA, HYPERNATREMIA:  suspected primary hyperPTH.  Got
   aggressive NS w/ lasix overnight; Na bumped from 144
 154.  Ca
   improved from 12.1
 11.2 overnight.
   -- started free water boluses through NG tube this morning; 300 cc Q2
   hours; renal recommending a total of 2L free water thoughout day
   -- given rapid onset of hypernatremia, low risk for neuron
   consequences, but will monitor
   -- starting D5-1/2 NS IV; will hold on more lasix doses; if Na
   approving on pm check, renal feels ok to give NS 1L to treat the
   calcium
   -- f/u renal, endocrine recs
   -- starting cinacalcet 30 mg QOD (can be crushed per pharm recs); cont
   calcitonin
   -- f/u vit d levels from [**2124-12-3**]; decision on whether to start
   bisphosphonates depends on levels per endocrine
   (#) COAGULOPATHY, THROMBOCYTOPENIA:  Heme attg following; c/w ESLD more
   so that DIC.  Would like plts > 30 given recent head bleed; also
   recommended cryo given risk of dysfibrinogenemia with liver disease
   (deferring to floor team).
   (#) HEPATIC HYDROTHORAX: last tapped on [**2124-11-28**]; stable O2 requirement;
   no evidence of infection on cx
   -- cont to follow sx; PRN CXR
   (#) PANHYPOPITUITISM:
   -- cont levothyroxine, dexamethasone, testosterone patch
   -- endocrine wants to wean dexamethasone to 0.5 mg QD; would like to
   check dex levels Thursday am before morning dose; decrease
   levothyroxine to 25 mcg QD
   (#) PPX: boots, PO PPI, lactulose
   (#) ACCESS: 2 PIV
   (#) COMMUNICATION: HCP is father cell [**Telephone/Fax (1) 4001**], signed ICU consent
   (#) FULL CODE
   (#) DISPO: MICU team feels patient is stable enough for floor transfer;
   will discuss with [**Doctor Last Name **] [**Doctor Last Name **] team as to whether would feel
   comfortable further treatment on the floor.

2124-12-06 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - increasingly somnolent throughout day
   - Dr. [**Last Name (STitle) 356**] spoke to father about need for possible intubation
   - Endocrine did not recommend bisphosphonate given his low vitamin D
   (was 15 in [**Month (only) 795**])
   - received 2L free H20 bolus and improvement in Na; did not give more
   NS given stable Ca at 11.2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2124-12-5**] 04:55 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2124-12-6**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 92 (84 - 103) bpm
   BP: 125/68(81) {115/58(72) - 136/71(85)} mmHg
   RR: 16 (13 - 17) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  8,171 mL
                                                                  1,081 mL
   PO:
             TF:
   IVF:
                                                                  5,621 mL
                                                                  1,021 mL
   Blood products:
   Total out:
                                                                  7,080 mL
                                                                    420 mL
   Urine:
                                                                  5,830 mL
                                                                    420 mL
   NG:
   Stool:
                                                                  1,250 mL
   Drains:
   Balance:
                                                                  1,091 mL
                                                                    661 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   General: no distress, but appears critically ill
   HEENT: dry MM, cracked lips, icteric sclera
   Lungs: difficult to appreciate BS due to end-expiratory grunting
   Cardio: tachycardic, RRR, no murmurs appreciated
   Abd: +BS, soft, distended
   Extremities:trace LE edema
   Skin: jaundice; scattered erosions & eschars on LE
   Neuro: arousable but somnolent; falls back asleep immediately after
   arousing to voice & does not answer questions; overall MS seems worse
   than yesterday.  CN II
 XII in tact; moves all limbs spontaneously
   Labs / Radiology
   27 K/uL
   8.6 g/dL
   129 mg/dL
   0.2 mg/dL
   29 mEq/L
   3.7 mEq/L
   68 mg/dL
   112 mEq/L
   147 mEq/L
   23.0 %
   3.3 K/uL
        [image002.jpg]
                             [**2124-12-5**]  05:15 AM
                             [**2124-12-6**]  03:21 AM
   WBC
   2.8
   3.3
   Hct
   23.7
   23.0
   Plt
   33
   27
   Cr
   0.2
   0.2
   Glucose
   94
   129
   Other labs: PT / PTT / INR:37.2/54.3/4.0
   ALT 60
   AST 129
   Alk Phos 119
   T Bili 48.7
   Ca++:11.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Imaging: No imaging for today
   Microbiology: [**2124-12-3**] UCx: no growth
   [**2124-12-1**] BCx x2 : NGTD
   Assessment and Plan
   37 yoM with MMP including HepC cirrhosis/ESLD, hypercalcemia, and
   panhypopit who was transferred to ICU on [**2124-12-4**] for lethargy/delta MS.
   (#) DELTA MS: likely multifactorial; most likely contributors are
   hypercalcemia & hepatic encephalopathy.  Has large hepatic hydrothroax,
   though no evidence of resp distress and satting well on 4LNC (same
   requirement as prior).  Neuro exam non-focal.  No evidnece for
   infectious etiologies, though cultures still pending.  Improvement
   overnight with Ox2, but still not at baseline.  No concern though for
   poor airway protection currently, though not ready to take PO
   medications.  Hypercalcemia has been improved (still somewhat high)
   without improvement in MS overnight.  Overall patient seems more
   obtunded than yest but has not yet been intubated b/c seems stable from
   resp standpoint.
   -- cont lactulose, rifaximin
   -- low suspicion for SBP currently, though will perform a diagnostic
   tap this afternoon
   -- f/u cx from weekend, NGTD currently
   -- f/u endocrine & renal recs
   -- low threshold for intubation if develops resp distress or worsening
   MS with inability to protect airway (no indication currently)
   (#) VOLUME BALANCE:
   -- will give PRN lasix throughout the day to maintain even volume
   balance given risk of hydrothorax causing resp compromise
   -- will check afternoon Na while on lasix
   (#) ESLD, HEP C CIRRHOSIS: MELD 32 --> 35 but currently off transplant
   list while critically ill.  S/p ERCP w/o improvement in TBili,
   synthetic function.  Also has portal vein thrombosis but coagulopathic
   so not on anticoagulation.
   -- cont lactulose, rifaximin, nadolol
   -- cont cipro ppx for SBP
   -- f/u liver recs
   (#) DEEP DERMATOPHYTE INFECTION OF THE LE:
   -- f/u ID recs
   -- cont caspofungin
   -- beta glucan pending per ID recs to look for fungal systemic
   infection
   (#) HYPERCALCEMIA:  suspected primary hyperPTH.  Got aggressive NS w/
   lasix [**12-4**]
[**12-5**].  Ca improved from 12.1 to 11.2 overnight with tx; 11.3
   on [**12-6**].
   -- holding further fluid tx for now b/c unlikely to be sig contributor
   to delta MS at this level
   -- f/u renal, endocrine recs
   -- cont cinacalcet 30 mg QOD (can be crushed per pharm recs); cont
   calcitonin
   -- f/u vit d levels from [**2124-12-3**]; endocrine deferring bisphosphonate &
   vit D repletion
   (#) COAGULOPATHY, THROMBOCYTOPENIA:  Heme attg following; c/w ESLD more
   so that DIC.  Would like plts > 30 given recent head bleed; also
   recommended cryo given risk of dysfibrinogenemia with liver disease
   (deferring to floor team).
   (#) HEPATIC HYDROTHORAX: last tapped on [**2124-11-28**]; stable O2 requirement;
   no evidence of infection on cx
   -- cont to follow sx; PRN CXR
   (#) PANHYPOPITUITISM:
   -- cont levothyroxine, dexamethasone, testosterone patch
   -- endocrine wants to wean dexamethasone to 0.5 mg QD; would like to
   check dex levels Thursday am before morning dose; decrease
   levothyroxine to 25 mcg QD
   (#) PPX: boots, PO PPI, lactulose
   (#) ACCESS: 2 PIV
   (#) COMMUNICATION: HCP is father cell [**Telephone/Fax (1) 4001**], signed ICU consent
   (#) FULL CODE
   (#) DISPO: to remain in ICU currently given poor overall status; had a
   family meeting on [**12-5**] over phone with Dr. [**Last Name (STitle) 356**] & father; family
   moving to DNR/DNI but waiting to have further discussion today.

2124-12-07 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: AMS
   24 Hour Events:
   - had family meeting re: goals of care, made DNR/DNI
   - deferred paracentesis as goals of care changed
   -- hypernatremic so switched maintenance to D5W from D51/2, and also
   added FWB via NGTbut had high residuals so not given
   -- IV came out overnight, bled significantly before discovered, AM HCT
   down - didn't transfuse
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2124-12-6**] 04:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-7**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 74 (65 - 93) bpm
   BP: 103/56(68) {91/40(58) - 217/171(173)} mmHg
   RR: 13 (13 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,969 mL
                                                                    638 mL
   PO:
             TF:
   IVF:
                                                                  2,759 mL
                                                                    578 mL
   Blood products:
   Total out:
                                                                  2,485 mL
                                                                    345 mL
   Urine:
                                                                  1,685 mL
                                                                    345 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    484 mL
                                                                    293 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General: no distress, but appears critically ill
   HEENT: dry MM, cracked lips, icteric sclera
   Lungs: difficult to appreciate BS due to end-expiratory grunting
   Cardio: tachycardic, RRR, no murmurs appreciated
   Abd: +BS, soft, distended
   Extremities:trace LE edema
   Skin: jaundice; scattered erosions & eschars on LE
   Neuro: arousable but somnolent; falls back asleep immediately after
   arousing to voice & does not answer questions; overall MS seems worse
   than yesterday.  CN II
 XII in tact; moves all limbs spontaneously
   Labs / Radiology
   27 K/uL
   7.7 g/dL
   112 mg/dL
   0.3 mg/dL
   26 mEq/L
   3.8 mEq/L
   69 mg/dL
   115 mEq/L
   147 mEq/L
   20.6 %
   4.3 K/uL
        [image002.jpg]
                             [**2124-12-5**]  05:15 AM
                             [**2124-12-6**]  03:21 AM
                             [**2124-12-7**]  03:48 AM
   WBC
   2.8
   3.3
   4.3
   Hct
   23.7
   23.0
   20.6
   Plt
   33
   27
   27
   Cr
   0.2
   0.2
   0.3
   Glucose
   94
   129
   112
   Other labs: PT / PTT / INR:44.3/61.2/4.9, ALT / AST:53/109, Alk Phos /
   T Bili:102/42.7, LDH:599 IU/L, Ca++:11.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.7
   mg/dL
   Imaging: none
   Microbiology: [**12-3**] urine cx: no growth
   [**12-2**] stool cx: C Diff negative
   Assessment and Plan
   37 yoM with MMP including HepC cirrhosis/ESLD, hypercalcemia, and
   panhypopit who was transferred to ICU on [**2124-12-4**] for lethargy/delta MS.
   (#) DELTA MS: likely multifactorial; most likely contributors are
   hypercalcemia & hepatic encephalopathy.  Has large hepatic hydrothroax,
   though no evidence of resp distress and satting well on 4LNC (same
   requirement as prior).  Neuro exam non-focal.    Hypercalcemia has been
   improved (still somewhat high) without improvement in MS, pt is
   becoming progressively more obtunded.
   -- goals of care shifting towards [**Last Name (LF) 115**], [**First Name3 (LF) **] did not pursue paracentesis
   yesterday
   -- cont lactulose, rifaximin
   -- no growth on any cultures
   -- f/u endocrine & renal recs
   (#) VOLUME BALANCE:
   -- will give PRN lasix throughout the day to maintain even volume
   balance given risk of hydrothorax causing resp compromise
   -- will check afternoon Na while on lasix
   (#) ESLD, HEP C CIRRHOSIS: critically ill, not currently a transplant
   candidate. .Synthetic function is worsening acutely, with INR up to
   4.9, platelets in 20s.
   -- cont lactulose, rifaximin
   -- cont cipro ppx for SBP
   -- f/u additional liver recs
   (#) DEEP DERMATOPHYTE INFECTION OF THE LE:
   -- f/u ID recs
   -- cont caspofungin
   -- beta glucan pending per ID recs to look for fungal systemic
   infection
   (#) HYPERCALCEMIA:  suspected primary hyperPTH.  Got aggressive NS w/
   lasix [**12-4**]
[**12-5**].  Ca improved from 12.1 to 11.2 overnight with tx; was
   11.3 on [**12-6**]. Unlikely to be very important at this point per renal.
   -- holding on any aggressive further fluid tx for now b/c unlikely to
   be sig contributor to delta MS at this level
   -- f/u renal, endocrine recs
   -- cont cinacalcet 30 mg QOD (can be crushed per pharm recs); cont
   calcitonin
   -- f/u vit d levels from [**2124-12-3**]; endocrine deferring bisphosphonate &
   vit D repletion
   (#) COAGULOPATHY, THROMBOCYTOPENIA:  Heme attg following; c/w ESLD more
   so that DIC.
   -- would stop trending
   (#) HEPATIC HYDROTHORAX: last tapped on [**2124-11-28**]; stable O2 requirement;
   no evidence of infection on cx
   -- cont to follow sx
   (#) PANHYPOPITUITISM:
   -- cont levothyroxine, dexamethasone, testosterone patch
   -- endocrine wants to wean dexamethasone to 0.5 mg QD; would like to
   check dex levels Thursday am before morning dose; decrease
   levothyroxine to 25 mcg QD
   (#) PPX: boots, PO PPI, lactulose
   (#) COMMUNICATION: HCP is father cell [**Telephone/Fax (1) 4001**], signed ICU consent
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-12-4**] 02:23 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor